* Schematics Netlist *



R_R1         Vi $N_0001  1k  
R_R3         $N_0003 $N_0002  1k  
R_R4         0 $N_0003  1k  
X_U1         $N_0001 $N_0003 V+ V- $N_0002 uA741
V_V3         Vi 0 DC 0V AC 1V 
C_C2         0 Vi  0.1n  
C_C1         $N_0002 Vo  0.2n  
V_V1         V+ 0 12v
V_V2         0 V- 12v
R_R2         0 Vo  10k  
