* Schematics Netlist *



C_C1         0 $N_0001  0.1u  
R_R2         $N_0002 0  2k  
R_R3         $N_0004 $N_0003  10k  
R_R5         $N_0003 Vo  10k  
V_V2         V+ 0 12v
V_V3         0 V- 12v
X_U2         0 $N_0003 V+ V- Vo LM741
X_U3         $N_0002 $N_0004 V+ V- $N_0004 LM741
X_U1         $N_0001 $N_0009 V+ V- $N_0009 LM741
R_R4         $N_0009 $N_0003  10k  
R_R1         Vi $N_0001  8k  
C_C2         Vi $N_0002  0.1u  
V_V1         Vi 0 DC 0V AC 1V 
