* Schematics Netlist *



R_R3         0 Vo  1k  
R_R2         0 $N_0001  1k  
X_U2         $N_0001 $N_0002 V+ V- Vo LM741
V_V2         V+ 0 12v
V_V3         0 V- 12v
R_R1         $N_0001 Vo  10k  
V_V1         Vi 0 DC 0V AC 500mv 
R_R4         $N_0002 Vi  10k  
C_C1         0 $N_0002  100n  
